US04782159
A solution of 3-(4-fluorobenzoyl)butanoic acid (885 g), 4-hydroxypyridine (663 g) and sodium hydroxide (453 g) in water (2.2 liters) was stirred under reflux for 24 hours. The reaction mixture was cooled, diluted with water (10 liters) and filtered through diatomaceous earth. The filtrate was acidified to pH 3 with concentrated hydrochloric acid to afford as a cream solid 3-[4-(4-oxo-1,4-dihydropyridin-1-yl)benzoyl]butanoic acid, 1127 g (94%), m.p. 251°-254° C.

reactant | 3-(4-fluorobenzoyl)butanoic acid | 885 g | FC1=CC=C(C(=O)C(CC(=O)O)C)C=C1 | C11H11FO3
reactant | 4-hydroxypyridine | 663 g | OC1=CC=NC=C1 | C5H5NO
reactant | sodium hydroxide | 453 g | [OH-].[Na+]
solvent | water | 2.2 liters | O | H2O
solvent | water | 10 liters | O | H2O
product | 3-[4-(4-oxo-1,4-dihydropyridin-1-yl)benzoyl]butanoic acid | O=C1C=CN(C=C1)C1=CC=C(C(=O)C(CC(=O)O)C)C=C1 | C16H15NO4
